US07612114B2
Pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester
Synthesized from pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester and 4-acetoxy-3-fluorobenzoic acid according to Preparation Example 154 mentioned above, pivalic acid 6-{2-[(4-acetoxy-3-fluorobenzoyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (3.8 g) was used according to an analogous synthetic method to Preparation Example 155 to provide the title compound (2.3 g).

reactant | pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | C(C)NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | 4-acetoxy-3-fluorobenzoic acid | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1)F | C9H7FO4
reactant | pivalic acid 6-{2-[(4-acetoxy-3-fluorobenzoyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 3.8 g | C(C)(=O)OC1=C(C=C(C(=O)CCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1)F | C33H36FNO6
product | Pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 2.3 g | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C31H34FNO5
